US04849424
Following the procedure of Example 15, 180 mg of 4-chloro-2-(1-imidazolyl)pyrimidine were reacted with 23 mg of sodium metal and 2 ml of anhydrous methanol was carried out to yield 134 mg of 2-(1-imidazolyl)-4-methoxypyrimidine, having a melting point of 78°-79° C., recrystallized from a mixture of n-hexane and ethyl acetate.

reactant | 4-chloro-2-(1-imidazolyl)pyrimidine | 180 mg | ClC1=NC(=NC=C1)N1C=NC=C1 | C7H5ClN4
reactant | sodium | 23 mg | [Na] | Na
reactant | methanol | 2 ml | CO | CH4O
product | 2-(1-imidazolyl)-4-methoxypyrimidine | 134 mg | N1(C=NC=C1)C1=NC=CC(=N1)OC | C8H8N4O
